US05229516
F. α-Methyl-6-(2-quinolinylmethoxy)-9-(2-quinolinylmethyl)-9H-carbazole-2-acetic acid
A mixture consisting of 6-hydroxy-α-methyl carbazole-2-acetic acid (2.6 g, 0.010 mol), dimethyl sulfoxide (200 mL), sodium hydroxide (2.0 g in 20 mL H2O, 0.05 mol) and 2-chloromethylquinoline.HCl (4.0 g, 0.018 mol) is heated to 80° C. for 3 hours. The reaction mixture is cooled, poured into water (1000 mL), and the pH is adjusted to 4 with 1N HCl. The aqueous solution is extracted with ethyl acetate (4×300 mL) and the organic layers are combined, washed with water (2×300 mL), once with brine (300 mL), dried over MgSO4, filtered and concentrated to give 3.0 g of crude product. The latter is chromatographed on silica gel using 10% methanol/methylene chloride as an eluent to give 8 g of product, m.p. 197°-199° C.

reactant | 6-hydroxy-α-methyl carbazole-2-acetic acid | 0.010 mol, 2.6 g | OC=1C=C2C=3C=CC(=CC3NC2=CC1)C(C(=O)O)C | C15H13NO3
reactant | sodium hydroxide | 0.05 mol, 20 mL, 2.0 g | [OH-].[Na+]
reactant | 2-chloromethylquinoline | ClCC1=NC2=CC=CC=C2C=C1 | C10H8ClN
reactant | HCl | 0.018 mol, 4.0 g | Cl | ClH
reactant | HCl | 1N | Cl | ClH
solvent | water | 1000 mL | O | H2O
solvent | dimethyl sulfoxide | 200 mL | CS(=O)C | C2H6OS
product | α-Methyl-6-(2-quinolinylmethoxy)-9-(2-quinolinylmethyl)-9H-carbazole-2-acetic acid | 8 g | CC(C(=O)O)C1=CC=2N(C3=CC=C(C=C3C2C=C1)OCC1=NC2=CC=CC=C2C=C1)CC1=NC2=CC=CC=C2C=C1 | C35H27N3O3
